US07713993B2
Synthesis of 1-amino-3-(2-bromophenyl)piperidin-2-one
A solution of methyl 2-bromophenylacetate (2.0 g) in DMF (5 mL) was added to a suspension of sodium hydride (containing mineral oil at 40%, 384 mg) in DMF (20 mL) under ice-cooling. The reaction solution was stirred for 10 minutes, further stirred at room temperature for 30 minutes and then ice-cooled again. A solution of 1-chloro-3-iodopropane (1.96 g) in DMF (5 mL) was added to the reaction mixture, and the reaction solution was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture, and the organic layer was separated. The resulting organic layer washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain a crude product of methyl 2-(2-bromophenyl)-5-chloropentanoate. Hydrazine monohydrate (4 mL) was added to a solution of the resulting crude methyl 2-(2-bromophenyl)-5-chloropentanoate (2.895 g) in ethanol (20 mL), and the reaction solution was stirred at room temperature for three hours. Hydrazine monohydrate (8 mL) was further added to the reaction solution, and the reaction solution was stirred at room temperature for two days. The reaction solution was concentrated under reduced pressure. Saturated sodium bicarbonate water and ethyl acetate and were added to the residue, and the organic layer was separated. The resulting organic layer washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 1.504 g of the crude purified title compound. The property value of the compound is as follows.

reactant | Hydrazine monohydrate | 4 mL | O.NN
reactant | methyl 2-(2-bromophenyl)-5-chloropentanoate | 2.895 g | BrC1=C(C=CC=C1)C(C(=O)OC)CCCCl | C12H14BrClO2
reactant | Hydrazine monohydrate | 8 mL | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-amino-3-(2-bromophenyl)piperidin-2-one | NN1C(C(CCC1)C1=C(C=CC=C1)Br)=O | C11H13BrN2O
